US07220856B2
Preparation of 7-Chloro-4-[3,5-dimethyl-4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline
7-Chloro-4-(3,5-dimethylpiperazin-1-yl)quinoline (100 mg, 0.36 mmol) and 4-fluorophenyl isocyanate (70 mg, 0.51 mmol) are reacted according to method C yielding the title product as colorless solid after column chromatography with CH2Cl2-MeOH.

reactant | 7-Chloro-4-(3,5-dimethylpiperazin-1-yl)quinoline | 0.36 mmol, 100 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CC(NC(C1)C)C | C15H18ClN3
reactant | 4-fluorophenyl isocyanate | 0.51 mmol, 70 mg | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 7-Chloro-4-[3,5-dimethyl-4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CC(N(C(C1)C)C(=O)NC1=CC=C(C=C1)F)C | C22H22ClFN4O
